US09255090B2
8-(5-Carboxymethyl-2-isopropoxy-phenyl)-5-cyano-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester (C29H28N205, MW=484.20)
A mixture under N2 of palladium(II) acetate (0.21 mg, 0.9 μmol, 0.01 eq.), 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (0.78 mg, 1.9 mmol, 0.02 eq.), [4-isopropoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester (34 mg, 94.3 μmol, 1.00 eq.) and potassium phosphate (40 mg, 0.19 mmol, 2.00 eq.) in toluene (0.3 mL) and water (0.04 mL) was stirred at r.t. for 2 min. A solution of 8-chloro-5-cyano-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester (32.1 mg, 94.3 μmol, 1.00 eq.) in toluene (0.3 mL) was added and the mixture was stirred at 100° C. for 48 hours. The mixture was allowed to cool to r.t., filtered through celite, and concentrated in vacuo. The residue, redissolved in MeCN/H2O (1.6 mL) and formic acid (0.2 mL), was purified by prep. HPLC (column: Waters XBridge, 30×75 mm, 10 um, UV/MS, acidic conditions) and evaporated. The residue was redissolved in DMF (0.45 mL) and 2M aq. NaOH soln. (0.2 mL) was added. The resulting mixture was stirred at r.t. for 1 hour. Formic acid (0.2 mL) was added. The crude mixture was purified by prep. HPLC (column: Waters XBridge, 30×75 mm, 10 um, UV/MS, acidic conditions) and evaporated to give the title compound as a milky oil.

reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 1.9 mmol, 0.78 mg, 0.02 eq. | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | [4-isopropoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester | 94.3 μmol, 34 mg, 1.00 eq. | C(C)OC(CC1=CC(=C(C=C1)OC(C)C)B1OC(C(O1)(C)C)(C)C)=O | C19H29BO5
reactant | potassium phosphate | 0.19 mmol, 40 mg, 2.00 eq. | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 8-chloro-5-cyano-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | 94.3 μmol, 32.1 mg, 1.00 eq. | C(C1=CC=CC=C1)OC(=O)N1CC2=C(C=CC(=C2CC1)C#N)Cl | C18H15ClN2O2
solvent | toluene | 0.3 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.04 mL | O | H2O
solvent | toluene | 0.3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 0.9 μmol, 0.21 mg, 0.01 eq. | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 8-(5-Carboxymethyl-2-isopropoxy-phenyl)-5-cyano-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC2=C(C=CC(=C2CC1)C#N)C1=C(C=CC(=C1)CC(=O)O)OC(C)C | C29H28N2O5
